US08039472B2
To a solution of 3-(4-tert-Butoxycarbonylmethoxy-phenyl)-propionic acid methyl ester (2.70 g, 9.17 mmol) in THF (80 ml) is added 0.2N lithium hydroxide (45.9 ml, 9.17 mmol) at 0° C. and the reaction mixture is stirred at 0° C. for 4.5 hours. 1M HCl (15 ml) is added and the product is extracted using EtOAc (×3). The organic phase is dried (Na2SO4) and concentrated in vacuo to yield a white solid. Flash chromatography (SiO2, 10% EtOAc in CH2Cl2, then 20% EtOAc in CH2Cl2) yields 3-(4-tert-Butoxycarbonylmethoxy-phenyl)-propionic acid as a white solid.

reactant | 3-(4-tert-Butoxycarbonylmethoxy-phenyl)-propionic acid methyl ester | 9.17 mmol, 2.70 g | COC(CCC1=CC=C(C=C1)OCC(=O)OC(C)(C)C)=O | C16H22O5
reactant | lithium hydroxide | 9.17 mmol, 0.2N, 45.9 ml | [OH-].[Li+]
reactant | HCl | 1M, 15 ml | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-tert-Butoxycarbonylmethoxy-phenyl)-propionic acid | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)CCC(=O)O | C15H20O5
